US07553969B1
(1) Synthesis of 2-tert-butoxycarbonylamino-3-methylbutyric acid 2-(3-tert-butyl-4-hydroxyphenyl)-1-(thiazol-2-yl)ethylamide
To a solution of Boc-Val-OH (890 mg, 4.09 mmol), 2-(3-tert-butyl-4-hydroxyphenyl)-1-(thiazol-2-yl)ethylamine (1.03 g, 3.73 mmol) and CMPI (653 mg, 1.05 mmol) in THF (10 ml), TEA (1 ml) was added under cooling with ice and stirred at room temperature overnight. The reaction mixture was mixed with water and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over sodium sulfate and evaporated to remove the solvent under reduced pressure; the thus obtained residue was subjected to silica gel column chromatography (developing solvent: ethyl acetate:n-hexane=1:1), giving the titled compound (1.88 g, 99%).

reactant | Boc-Val-OH | 4.09 mmol, 890 mg | N([C@@H](C(C)C)C(=O)O)C(=O)OC(C)(C)C | C10H19NO4
reactant | 2-(3-tert-butyl-4-hydroxyphenyl)-1-(thiazol-2-yl)ethylamine | 3.73 mmol, 1.03 g | C(C)(C)(C)C=1C=C(C=CC1O)CC(C=1SC=CN1)N | C15H20N2OS
reactant | water | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-tert-butoxycarbonylamino-3-methylbutyric acid 2-(3-tert-butyl-4-hydroxyphenyl)-1-(thiazol-2-yl)ethylamide | 1.88 g, 99% | C(C)(C)(C)C=1C=C(C=CC1O)CC(C=1SC=CN1)NC(C(C(C)C)NC(=O)OC(C)(C)C)=O | C25H37N3O4S
